* h005_grouped_magnetic_then_varactor_128c_100ohm
* Hybrid varactor-plus-magnetic 50/100/150 MHz refinement track.
* role=discovery; source_only=True; no direct 100/150 MHz discovery drive.
* placement=grouped_magnetic_then_varactor; magnetic_curve=soft; cleanup=extraction_plus_rejection
.option method=gear maxord=2 reltol=2e-4 abstol=1e-12 vntol=1e-6 chgtol=1e-16 itl4=280
.model DVAR D(Is=1e-15 Rs=0.34 Cjo=3.09879968398e-11 Vj=0.65 M=0.58 Bv=18 Ibv=1e-06)
.param kmag=1.5375e-06
.param gcore=1.5e-07
Vbias vb 0 DC 3.4
Vsrc src 0 SIN(0 2.25 50000000)
Rsrc src n0 100
Rrawload n128 0 300
Cbase0 n0 0 9.6875e-12
Rbleed0 n0 0 160000
Rser1 n0 ns1 0.0134571259295
Lser1 ns1 n1 9.6875e-08
Cbase1 n1 0 9.6875e-12
Rbleed1 n1 0 160000
Rser2 n1 ns2 0.0134571259295
Lser2 ns2 n2 9.6875e-08
Cbase2 n2 0 9.6875e-12
Rbleed2 n2 0 160000
Rser3 n2 ns3 0.0134571259295
Lser3 ns3 n3 9.6875e-08
Cbase3 n3 0 9.6875e-12
Rbleed3 n3 0 160000
Rser4 n3 ns4 0.0134571259295
Lser4 ns4 n4 9.6875e-08
Cbase4 n4 0 9.6875e-12
Rbleed4 n4 0 160000
Rser5 n4 ns5 0.0134571259295
Lser5 ns5 n5 9.6875e-08
Cbase5 n5 0 9.6875e-12
Rbleed5 n5 0 160000
Rser6 n5 ns6 0.0134571259295
Lser6 ns6 n6 9.6875e-08
Cbase6 n6 0 9.6875e-12
Rbleed6 n6 0 160000
Rser7 n6 ns7 0.0134571259295
Lser7 ns7 n7 9.6875e-08
Cbase7 n7 0 9.6875e-12
Rbleed7 n7 0 160000
Rser8 n7 ns8 0.0134571259295
Lser8 ns8 n8 9.6875e-08
Cbase8 n8 0 9.6875e-12
Rbleed8 n8 0 160000
Rser9 n8 ns9 0.0134571259295
Lser9 ns9 n9 9.6875e-08
Cbase9 n9 0 9.6875e-12
Rbleed9 n9 0 160000
Rser10 n9 ns10 0.0134571259295
Lser10 ns10 n10 9.6875e-08
Cbase10 n10 0 9.6875e-12
Rbleed10 n10 0 160000
Rser11 n10 ns11 0.0134571259295
Lser11 ns11 n11 9.6875e-08
Cbase11 n11 0 9.6875e-12
Rbleed11 n11 0 160000
Rser12 n11 ns12 0.0134571259295
Lser12 ns12 n12 9.6875e-08
Cbase12 n12 0 9.6875e-12
Rbleed12 n12 0 160000
Rser13 n12 ns13 0.0134571259295
Lser13 ns13 n13 9.6875e-08
Cbase13 n13 0 9.6875e-12
Rbleed13 n13 0 160000
Rser14 n13 ns14 0.0134571259295
Lser14 ns14 n14 9.6875e-08
Cbase14 n14 0 9.6875e-12
Rbleed14 n14 0 160000
Rser15 n14 ns15 0.0134571259295
Lser15 ns15 n15 9.6875e-08
Cbase15 n15 0 9.6875e-12
Rbleed15 n15 0 160000
Rser16 n15 ns16 0.0134571259295
Lser16 ns16 n16 9.6875e-08
Cbase16 n16 0 9.6875e-12
Rbleed16 n16 0 160000
Rser17 n16 ns17 0.0134571259295
Lser17 ns17 n17 9.6875e-08
Cbase17 n17 0 9.6875e-12
Rbleed17 n17 0 160000
Rser18 n17 ns18 0.0134571259295
Lser18 ns18 n18 9.6875e-08
Cbase18 n18 0 9.6875e-12
Rbleed18 n18 0 160000
Rser19 n18 ns19 0.0134571259295
Lser19 ns19 n19 9.6875e-08
Cbase19 n19 0 9.6875e-12
Rbleed19 n19 0 160000
Rser20 n19 ns20 0.0134571259295
Lser20 ns20 n20 9.6875e-08
Cbase20 n20 0 9.6875e-12
Rbleed20 n20 0 160000
Rser21 n20 ns21 0.0134571259295
Lser21 ns21 n21 9.6875e-08
Cbase21 n21 0 9.6875e-12
Rbleed21 n21 0 160000
Rser22 n21 ns22 0.0134571259295
Lser22 ns22 n22 9.6875e-08
Cbase22 n22 0 9.6875e-12
Rbleed22 n22 0 160000
Rser23 n22 ns23 0.0134571259295
Lser23 ns23 n23 9.6875e-08
Cbase23 n23 0 9.6875e-12
Rbleed23 n23 0 160000
Rser24 n23 ns24 0.0134571259295
Lser24 ns24 n24 9.6875e-08
Cbase24 n24 0 9.6875e-12
Rbleed24 n24 0 160000
Rser25 n24 ns25 0.0134571259295
Lser25 ns25 n25 9.6875e-08
Cbase25 n25 0 9.6875e-12
Rbleed25 n25 0 160000
Rser26 n25 ns26 0.0134571259295
Lser26 ns26 n26 9.6875e-08
Cbase26 n26 0 9.6875e-12
Rbleed26 n26 0 160000
Rser27 n26 ns27 0.0134571259295
Lser27 ns27 n27 9.6875e-08
Cbase27 n27 0 9.6875e-12
Rbleed27 n27 0 160000
Rser28 n27 ns28 0.0134571259295
Lser28 ns28 n28 9.6875e-08
Cbase28 n28 0 9.6875e-12
Rbleed28 n28 0 160000
Rser29 n28 ns29 0.0134571259295
Lser29 ns29 n29 9.6875e-08
Cbase29 n29 0 9.6875e-12
Rbleed29 n29 0 160000
Rser30 n29 ns30 0.0134571259295
Lser30 ns30 n30 9.6875e-08
Cbase30 n30 0 9.6875e-12
Rbleed30 n30 0 160000
Rser31 n30 ns31 0.0134571259295
Lser31 ns31 n31 9.6875e-08
Cbase31 n31 0 9.6875e-12
Rbleed31 n31 0 160000
Rser32 n31 ns32 0.0134571259295
Lser32 ns32 n32 9.6875e-08
Cbase32 n32 0 9.6875e-12
Rbleed32 n32 0 160000
Rser33 n32 ns33 0.0134571259295
Lser33 ns33 n33 9.6875e-08
Cbase33 n33 0 9.6875e-12
Rbleed33 n33 0 160000
Rser34 n33 ns34 0.0134571259295
Lser34 ns34 n34 9.6875e-08
Cbase34 n34 0 9.6875e-12
Rbleed34 n34 0 160000
Rser35 n34 ns35 0.0134571259295
Lser35 ns35 n35 9.6875e-08
Cbase35 n35 0 9.6875e-12
Rbleed35 n35 0 160000
Rser36 n35 ns36 0.0134571259295
Lser36 ns36 n36 9.6875e-08
Cbase36 n36 0 9.6875e-12
Rbleed36 n36 0 160000
Rser37 n36 ns37 0.0134571259295
Lser37 ns37 n37 9.6875e-08
Cbase37 n37 0 9.6875e-12
Rbleed37 n37 0 160000
Rser38 n37 ns38 0.0134571259295
Lser38 ns38 n38 9.6875e-08
Cbase38 n38 0 9.6875e-12
Rbleed38 n38 0 160000
Rser39 n38 ns39 0.0134571259295
Lser39 ns39 n39 9.6875e-08
Cbase39 n39 0 9.6875e-12
Rbleed39 n39 0 160000
Rser40 n39 ns40 0.0134571259295
Lser40 ns40 n40 9.6875e-08
Cbase40 n40 0 9.6875e-12
Rbleed40 n40 0 160000
Rser41 n40 ns41 0.0134571259295
Lser41 ns41 n41 9.6875e-08
Cbase41 n41 0 9.6875e-12
Rbleed41 n41 0 160000
Rser42 n41 ns42 0.0134571259295
Lser42 ns42 n42 9.6875e-08
Cbase42 n42 0 9.6875e-12
Rbleed42 n42 0 160000
Rser43 n42 ns43 0.0134571259295
Lser43 ns43 n43 9.6875e-08
Cbase43 n43 0 9.6875e-12
Rbleed43 n43 0 160000
Rser44 n43 ns44 0.0134571259295
Lser44 ns44 n44 9.6875e-08
Cbase44 n44 0 9.6875e-12
Rbleed44 n44 0 160000
Rser45 n44 ns45 0.0134571259295
Lser45 ns45 n45 9.6875e-08
Cbase45 n45 0 9.6875e-12
Rbleed45 n45 0 160000
Rser46 n45 ns46 0.0134571259295
Lser46 ns46 n46 9.6875e-08
Cbase46 n46 0 9.6875e-12
Rbleed46 n46 0 160000
Rser47 n46 ns47 0.0134571259295
Lser47 ns47 n47 9.6875e-08
Cbase47 n47 0 9.6875e-12
Rbleed47 n47 0 160000
Rser48 n47 ns48 0.0134571259295
Lser48 ns48 n48 9.6875e-08
Cbase48 n48 0 9.6875e-12
Rbleed48 n48 0 160000
Rser49 n48 ns49 0.0134571259295
Lser49 ns49 n49 9.6875e-08
Cfixed49 n49 0 1.74375e-12
Dvar49 n49 vb DVAR
Rbleed49 n49 0 160000
Rser50 n49 ns50 0.0134571259295
Lser50 ns50 n50 9.6875e-08
Cfixed50 n50 0 1.74375e-12
Dvar50 n50 vb DVAR
Rbleed50 n50 0 160000
Rser51 n50 ns51 0.0134571259295
Lser51 ns51 n51 9.6875e-08
Cfixed51 n51 0 1.74375e-12
Dvar51 n51 vb DVAR
Rbleed51 n51 0 160000
Rser52 n51 ns52 0.0134571259295
Lser52 ns52 n52 9.6875e-08
Cfixed52 n52 0 1.74375e-12
Dvar52 n52 vb DVAR
Rbleed52 n52 0 160000
Rser53 n52 ns53 0.0134571259295
Lser53 ns53 n53 9.6875e-08
Cfixed53 n53 0 1.74375e-12
Dvar53 n53 vb DVAR
Rbleed53 n53 0 160000
Rser54 n53 ns54 0.0134571259295
Lser54 ns54 n54 9.6875e-08
Cfixed54 n54 0 1.74375e-12
Dvar54 n54 vb DVAR
Rbleed54 n54 0 160000
Rser55 n54 ns55 0.0134571259295
Lser55 ns55 n55 9.6875e-08
Cfixed55 n55 0 1.74375e-12
Dvar55 n55 vb DVAR
Rbleed55 n55 0 160000
Rser56 n55 ns56 0.0134571259295
Lser56 ns56 n56 9.6875e-08
Cfixed56 n56 0 1.74375e-12
Dvar56 n56 vb DVAR
Rbleed56 n56 0 160000
Rser57 n56 ns57 0.0134571259295
Lser57 ns57 n57 9.6875e-08
Cfixed57 n57 0 1.74375e-12
Dvar57 n57 vb DVAR
Rbleed57 n57 0 160000
Rser58 n57 ns58 0.0134571259295
Lser58 ns58 n58 9.6875e-08
Cfixed58 n58 0 1.74375e-12
Dvar58 n58 vb DVAR
Rbleed58 n58 0 160000
Rser59 n58 ns59 0.0134571259295
Lser59 ns59 n59 9.6875e-08
Cfixed59 n59 0 1.74375e-12
Dvar59 n59 vb DVAR
Rbleed59 n59 0 160000
Rser60 n59 ns60 0.0134571259295
Lser60 ns60 n60 9.6875e-08
Cfixed60 n60 0 1.74375e-12
Dvar60 n60 vb DVAR
Rbleed60 n60 0 160000
Rser61 n60 ns61 0.0134571259295
Lser61 ns61 n61 9.6875e-08
Cfixed61 n61 0 1.74375e-12
Dvar61 n61 vb DVAR
Rbleed61 n61 0 160000
Rser62 n61 ns62 0.0134571259295
Lser62 ns62 n62 9.6875e-08
Cfixed62 n62 0 1.74375e-12
Dvar62 n62 vb DVAR
Rbleed62 n62 0 160000
Rser63 n62 ns63 0.0134571259295
Lser63 ns63 n63 9.6875e-08
Cfixed63 n63 0 1.74375e-12
Dvar63 n63 vb DVAR
Rbleed63 n63 0 160000
Rser64 n63 ns64 0.0134571259295
Lser64 ns64 n64 9.6875e-08
Cfixed64 n64 0 1.74375e-12
Dvar64 n64 vb DVAR
Rbleed64 n64 0 160000
Rser65 n64 ns65 0.0134571259295
Lser65 ns65 n65 9.6875e-08
Cfixed65 n65 0 1.74375e-12
Dvar65 n65 vb DVAR
Rbleed65 n65 0 160000
Rser66 n65 ns66 0.0134571259295
Lser66 ns66 n66 9.6875e-08
Cfixed66 n66 0 1.74375e-12
Dvar66 n66 vb DVAR
Rbleed66 n66 0 160000
Rser67 n66 ns67 0.0134571259295
Lser67 ns67 n67 9.6875e-08
Cfixed67 n67 0 1.74375e-12
Dvar67 n67 vb DVAR
Rbleed67 n67 0 160000
Rser68 n67 ns68 0.0134571259295
Lser68 ns68 n68 9.6875e-08
Cfixed68 n68 0 1.74375e-12
Dvar68 n68 vb DVAR
Rbleed68 n68 0 160000
Rser69 n68 ns69 0.0134571259295
Lser69 ns69 n69 9.6875e-08
Cfixed69 n69 0 1.74375e-12
Dvar69 n69 vb DVAR
Rbleed69 n69 0 160000
Rser70 n69 ns70 0.0134571259295
Lser70 ns70 n70 9.6875e-08
Cfixed70 n70 0 1.74375e-12
Dvar70 n70 vb DVAR
Rbleed70 n70 0 160000
Rser71 n70 ns71 0.0134571259295
Lser71 ns71 n71 9.6875e-08
Cfixed71 n71 0 1.74375e-12
Dvar71 n71 vb DVAR
Rbleed71 n71 0 160000
Rser72 n71 ns72 0.0134571259295
Lser72 ns72 n72 9.6875e-08
Cfixed72 n72 0 1.74375e-12
Dvar72 n72 vb DVAR
Rbleed72 n72 0 160000
Rser73 n72 ns73 0.0134571259295
Lser73 ns73 n73 9.6875e-08
Cfixed73 n73 0 1.74375e-12
Dvar73 n73 vb DVAR
Rbleed73 n73 0 160000
Rser74 n73 ns74 0.0134571259295
Lser74 ns74 n74 9.6875e-08
Cfixed74 n74 0 1.74375e-12
Dvar74 n74 vb DVAR
Rbleed74 n74 0 160000
Rser75 n74 ns75 0.0134571259295
Lser75 ns75 n75 9.6875e-08
Cfixed75 n75 0 1.74375e-12
Dvar75 n75 vb DVAR
Rbleed75 n75 0 160000
Rser76 n75 ns76 0.0134571259295
Lser76 ns76 n76 9.6875e-08
Cfixed76 n76 0 1.74375e-12
Dvar76 n76 vb DVAR
Rbleed76 n76 0 160000
Rser77 n76 ns77 0.0134571259295
Lser77 ns77 n77 9.6875e-08
Cfixed77 n77 0 1.74375e-12
Dvar77 n77 vb DVAR
Rbleed77 n77 0 160000
Rser78 n77 ns78 0.0134571259295
Lser78 ns78 n78 9.6875e-08
Cfixed78 n78 0 1.74375e-12
Dvar78 n78 vb DVAR
Rbleed78 n78 0 160000
Rser79 n78 ns79 0.0134571259295
Lser79 ns79 n79 9.6875e-08
Cfixed79 n79 0 1.74375e-12
Dvar79 n79 vb DVAR
Rbleed79 n79 0 160000
Rser80 n79 ns80 0.0134571259295
Lser80 ns80 n80 9.6875e-08
Cfixed80 n80 0 1.74375e-12
Dvar80 n80 vb DVAR
Rbleed80 n80 0 160000
Rser81 n80 ns81 0.0134571259295
Lser81 ns81 n81 9.6875e-08
Cfixed81 n81 0 1.74375e-12
Dvar81 n81 vb DVAR
Rbleed81 n81 0 160000
Rser82 n81 ns82 0.0134571259295
Lser82 ns82 n82 9.6875e-08
Cfixed82 n82 0 1.74375e-12
Dvar82 n82 vb DVAR
Rbleed82 n82 0 160000
Rser83 n82 ns83 0.0134571259295
Lser83 ns83 n83 9.6875e-08
Cfixed83 n83 0 1.74375e-12
Dvar83 n83 vb DVAR
Rbleed83 n83 0 160000
Rser84 n83 ns84 0.0134571259295
Lser84 ns84 n84 9.6875e-08
Cfixed84 n84 0 1.74375e-12
Dvar84 n84 vb DVAR
Rbleed84 n84 0 160000
Rser85 n84 ns85 0.0134571259295
Lser85 ns85 n85 9.6875e-08
Cfixed85 n85 0 1.74375e-12
Dvar85 n85 vb DVAR
Rbleed85 n85 0 160000
Rser86 n85 ns86 0.0134571259295
Lser86 ns86 n86 9.6875e-08
Cfixed86 n86 0 1.74375e-12
Dvar86 n86 vb DVAR
Rbleed86 n86 0 160000
Rser87 n86 ns87 0.0134571259295
Lser87 ns87 n87 9.6875e-08
Cfixed87 n87 0 1.74375e-12
Dvar87 n87 vb DVAR
Rbleed87 n87 0 160000
Rser88 n87 ns88 0.0134571259295
Lser88 ns88 n88 9.6875e-08
Cfixed88 n88 0 1.74375e-12
Dvar88 n88 vb DVAR
Rbleed88 n88 0 160000
Rser89 n88 ns89 0.0134571259295
Lser89 ns89 n89 9.6875e-08
Cfixed89 n89 0 1.74375e-12
Dvar89 n89 vb DVAR
Rbleed89 n89 0 160000
Rser90 n89 ns90 0.0134571259295
Lser90 ns90 n90 9.6875e-08
Cfixed90 n90 0 1.74375e-12
Dvar90 n90 vb DVAR
Rbleed90 n90 0 160000
Rser91 n90 ns91 0.0134571259295
Lser91 ns91 n91 9.6875e-08
Cfixed91 n91 0 1.74375e-12
Dvar91 n91 vb DVAR
Rbleed91 n91 0 160000
Rser92 n91 ns92 0.0134571259295
Lser92 ns92 n92 9.6875e-08
Cfixed92 n92 0 1.74375e-12
Dvar92 n92 vb DVAR
Rbleed92 n92 0 160000
Rser93 n92 ns93 0.0134571259295
Lser93 ns93 n93 9.6875e-08
Cfixed93 n93 0 1.74375e-12
Dvar93 n93 vb DVAR
Rbleed93 n93 0 160000
Rser94 n93 ns94 0.0134571259295
Lser94 ns94 n94 9.6875e-08
Cfixed94 n94 0 1.74375e-12
Dvar94 n94 vb DVAR
Rbleed94 n94 0 160000
Rser95 n94 ns95 0.0134571259295
Lser95 ns95 n95 9.6875e-08
Cfixed95 n95 0 1.74375e-12
Dvar95 n95 vb DVAR
Rbleed95 n95 0 160000
Rser96 n95 ns96 0.0134571259295
Lser96 ns96 n96 9.6875e-08
Cfixed96 n96 0 1.74375e-12
Dvar96 n96 vb DVAR
Rbleed96 n96 0 160000
Rser97 n96 ns97 0.0134571259295
Lser97 ns97 n97 9.6875e-08
Cfixed97 n97 0 1.74375e-12
Dvar97 n97 vb DVAR
Rbleed97 n97 0 160000
Rser98 n97 ns98 0.0134571259295
Lser98 ns98 n98 9.6875e-08
Cfixed98 n98 0 1.74375e-12
Dvar98 n98 vb DVAR
Rbleed98 n98 0 160000
Rser99 n98 ns99 0.0134571259295
Lser99 ns99 n99 9.6875e-08
Cfixed99 n99 0 1.74375e-12
Dvar99 n99 vb DVAR
Rbleed99 n99 0 160000
Rser100 n99 ns100 0.0134571259295
Lser100 ns100 n100 9.6875e-08
Cfixed100 n100 0 1.74375e-12
Dvar100 n100 vb DVAR
Rbleed100 n100 0 160000
Rser101 n100 ns101 0.0134571259295
Lser101 ns101 n101 9.6875e-08
Cfixed101 n101 0 1.74375e-12
Dvar101 n101 vb DVAR
Rbleed101 n101 0 160000
Rser102 n101 ns102 0.0134571259295
Lser102 ns102 n102 9.6875e-08
Cfixed102 n102 0 1.74375e-12
Dvar102 n102 vb DVAR
Rbleed102 n102 0 160000
Rser103 n102 ns103 0.0134571259295
Lser103 ns103 n103 9.6875e-08
Cfixed103 n103 0 1.74375e-12
Dvar103 n103 vb DVAR
Rbleed103 n103 0 160000
Rser104 n103 ns104 0.0134571259295
Lser104 ns104 n104 9.6875e-08
Cfixed104 n104 0 1.74375e-12
Dvar104 n104 vb DVAR
Rbleed104 n104 0 160000
Rser105 n104 ns105 0.0134571259295
Lser105 ns105 n105 9.6875e-08
Cfixed105 n105 0 1.74375e-12
Dvar105 n105 vb DVAR
Rbleed105 n105 0 160000
Rser106 n105 ns106 0.0134571259295
Lser106 ns106 n106 9.6875e-08
Cfixed106 n106 0 1.74375e-12
Dvar106 n106 vb DVAR
Rbleed106 n106 0 160000
Rser107 n106 ns107 0.0134571259295
Lser107 ns107 n107 9.6875e-08
Cfixed107 n107 0 1.74375e-12
Dvar107 n107 vb DVAR
Rbleed107 n107 0 160000
Rser108 n107 ns108 0.0134571259295
Lser108 ns108 n108 9.6875e-08
Cfixed108 n108 0 1.74375e-12
Dvar108 n108 vb DVAR
Rbleed108 n108 0 160000
Rser109 n108 ns109 0.0134571259295
Lser109 ns109 n109 9.6875e-08
Cfixed109 n109 0 1.74375e-12
Dvar109 n109 vb DVAR
Rbleed109 n109 0 160000
Rser110 n109 ns110 0.0134571259295
Lser110 ns110 n110 9.6875e-08
Cfixed110 n110 0 1.74375e-12
Dvar110 n110 vb DVAR
Rbleed110 n110 0 160000
Rser111 n110 ns111 0.0134571259295
Lser111 ns111 n111 9.6875e-08
Cfixed111 n111 0 1.74375e-12
Dvar111 n111 vb DVAR
Rbleed111 n111 0 160000
Rser112 n111 ns112 0.0134571259295
Lser112 ns112 n112 9.6875e-08
Cfixed112 n112 0 1.74375e-12
Dvar112 n112 vb DVAR
Rbleed112 n112 0 160000
Rser113 n112 ns113 0.0134571259295
Lser113 ns113 n113 9.6875e-08
Cfixed113 n113 0 1.74375e-12
Dvar113 n113 vb DVAR
Rbleed113 n113 0 160000
Rser114 n113 ns114 0.0134571259295
Lser114 ns114 n114 9.6875e-08
Cfixed114 n114 0 1.74375e-12
Dvar114 n114 vb DVAR
Rbleed114 n114 0 160000
Rser115 n114 ns115 0.0134571259295
Lser115 ns115 n115 9.6875e-08
Cfixed115 n115 0 1.74375e-12
Dvar115 n115 vb DVAR
Rbleed115 n115 0 160000
Rser116 n115 ns116 0.0134571259295
Lser116 ns116 n116 9.6875e-08
Cfixed116 n116 0 1.74375e-12
Dvar116 n116 vb DVAR
Rbleed116 n116 0 160000
Rser117 n116 ns117 0.0134571259295
Lser117 ns117 n117 9.6875e-08
Cfixed117 n117 0 1.74375e-12
Dvar117 n117 vb DVAR
Rbleed117 n117 0 160000
Rser118 n117 ns118 0.0134571259295
Lser118 ns118 n118 9.6875e-08
Cfixed118 n118 0 1.74375e-12
Dvar118 n118 vb DVAR
Rbleed118 n118 0 160000
Rser119 n118 ns119 0.0134571259295
Lser119 ns119 n119 9.6875e-08
Cfixed119 n119 0 1.74375e-12
Dvar119 n119 vb DVAR
Rbleed119 n119 0 160000
Rser120 n119 ns120 0.0134571259295
Lser120 ns120 n120 9.6875e-08
Cfixed120 n120 0 1.74375e-12
Dvar120 n120 vb DVAR
Rbleed120 n120 0 160000
Rser121 n120 ns121 0.0134571259295
Lser121 ns121 n121 9.6875e-08
Cfixed121 n121 0 1.74375e-12
Dvar121 n121 vb DVAR
Rbleed121 n121 0 160000
Rser122 n121 ns122 0.0134571259295
Lser122 ns122 n122 9.6875e-08
Cfixed122 n122 0 1.74375e-12
Dvar122 n122 vb DVAR
Rbleed122 n122 0 160000
Rser123 n122 ns123 0.0134571259295
Lser123 ns123 n123 9.6875e-08
Cfixed123 n123 0 1.74375e-12
Dvar123 n123 vb DVAR
Rbleed123 n123 0 160000
Rser124 n123 ns124 0.0134571259295
Lser124 ns124 n124 9.6875e-08
Cfixed124 n124 0 1.74375e-12
Dvar124 n124 vb DVAR
Rbleed124 n124 0 160000
Rser125 n124 ns125 0.0134571259295
Lser125 ns125 n125 9.6875e-08
Cfixed125 n125 0 1.74375e-12
Dvar125 n125 vb DVAR
Rbleed125 n125 0 160000
Rser126 n125 ns126 0.0134571259295
Lser126 ns126 n126 9.6875e-08
Cfixed126 n126 0 1.74375e-12
Dvar126 n126 vb DVAR
Rbleed126 n126 0 160000
Rser127 n126 ns127 0.0134571259295
Lser127 ns127 n127 9.6875e-08
Cfixed127 n127 0 1.74375e-12
Dvar127 n127 vb DVAR
Rbleed127 n127 0 160000
Rser128 n127 ns128 0.0134571259295
Lser128 ns128 n128 9.6875e-08
Cfixed128 n128 0 1.74375e-12
Dvar128 n128 vb DVAR
Rbleed128 n128 0 160000
Bmag1 n1 0 I={(1.07955764767)*kmag*V(n1)*V(n1)*V(n1)/(1+(V(n1)/10)**2) + gcore*V(n1)}
Bmag5 n5 0 I={(1.084563729)*kmag*V(n5)*V(n5)*V(n5)/(1+(V(n5)/10)**2) + gcore*V(n5)}
Bmag9 n9 0 I={(1.08948723527)*kmag*V(n9)*V(n9)*V(n9)/(1+(V(n9)/10)**2) + gcore*V(n9)}
Bmag13 n13 0 I={(1.09432335878)*kmag*V(n13)*V(n13)*V(n13)/(1+(V(n13)/10)**2) + gcore*V(n13)}
Bmag17 n17 0 I={(1.09906737714)*kmag*V(n17)*V(n17)*V(n17)/(1+(V(n17)/10)**2) + gcore*V(n17)}
Bmag21 n21 0 I={(1.10371465787)*kmag*V(n21)*V(n21)*V(n21)/(1+(V(n21)/10)**2) + gcore*V(n21)}
Bmag25 n25 0 I={(1.10826066301)*kmag*V(n25)*V(n25)*V(n25)/(1+(V(n25)/10)**2) + gcore*V(n25)}
Bmag29 n29 0 I={(1.11270095345)*kmag*V(n29)*V(n29)*V(n29)/(1+(V(n29)/10)**2) + gcore*V(n29)}
Bmag33 n33 0 I={(1.11703119331)*kmag*V(n33)*V(n33)*V(n33)/(1+(V(n33)/10)**2) + gcore*V(n33)}
Bmag37 n37 0 I={(1.1212471542)*kmag*V(n37)*V(n37)*V(n37)/(1+(V(n37)/10)**2) + gcore*V(n37)}
Bmag41 n41 0 I={(1.12534471931)*kmag*V(n41)*V(n41)*V(n41)/(1+(V(n41)/10)**2) + gcore*V(n41)}
Bmag45 n45 0 I={(1.12931988742)*kmag*V(n45)*V(n45)*V(n45)/(1+(V(n45)/10)**2) + gcore*V(n45)}
Rext n128 ext_r 12.5417606849
Lext ext_r ext_l 2.3952998497e-07
Cext ext_l v150 4.7e-12
Rload150 v150 0 200
Rtrap50 n128 tr50_r 17.6838825658
Ltrap50 tr50_r tr50_l 1.12579092936e-06
Ctrap50 tr50_l 0 9e-12
Rtrap100 n128 tr100_r 12.3184940474
Ltrap100 tr100_r tr100_l 3.72504351626e-07
Ctrap100 tr100_l 0 6.8e-12
.control
set filetype=ascii
set wr_singlescale
set wr_vecnames
tran 5e-10 5.5e-07 0 2e-10
wrdata h005_grouped_magnetic_then_varactor_128c_100ohm_tran.csv time v(n0) v(n64) v(v150) i(Vsrc) i(Vbias)
.endc
.end
